US05175320
b) Methyl 3α-acetoxy-6-bromo-7-keto-5β-cholanoate.
A solution of methyl 3α-acetoxy-7-keto-5β-cholanoate. (5.6 g, 12.54 mmoles) in acetic acid (100 ml) was added with a bromine solution (2.8g) in acetic acid (10 ml) and immediately after with 48% hydrobromic acid (0.74 ml). The resulting reaction mixture was left to react overnight under strong magnetic stirring, then it was poured into water (300 ml) and filtered under vacuum to obtain a solid (8,03 g) which was subjected to flash chromatography on silica, eluting with methylene chloride/methanol 99.5:0.5, to yield 6.0 g of a pure product (91%).

reactant | methyl 3α-acetoxy-7-keto-5β-cholanoate | C(C)(=O)O[C@H]1C[C@H]2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C27H42O5
reactant | bromine | 2.8g | BrBr | Br2
reactant | hydrobromic acid | 0.74 ml | Br | BrH
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Methyl 3α-acetoxy-6-bromo-7-keto-5β-cholanoate | 8,03 g | C(C)(=O)O[C@H]1C[C@H]2C(C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)Br | C27H41BrO5
